US05206240
1,4-Dioxa-8-azaspiro[4.5]-decane (18.62 g, 130 mmoles) in 50 mL of acetonitrile was stirred under argon and treated with anhydrous potassium carbonate (27.60 g, 200 mmoles). The mixture was cooled to 0° C. and 2-(4-nitrophenyl)ethylbromide (23.01 g, 100 mmoles) was added in one portion. After 10 minutes, the ice bath was removed and the reaction was stirred for 14 hrs at room temperature. The mixture was diluted with 220 mL of ethyl acetate and 200 mL of water. The aqueous phase was separated, the organic phase washed with water (3×100 mL), and brine (2×50 mL). The organic portion was dried (Na2SO4), filtered, and concentrated to give 28.60 g (98%) of N(2-(4-nitrophenyl)ethyl-1,4-dioxa-8-azaspiro[4.5]-decane as a yellow solid.

reactant | 1,4-Dioxa-8-azaspiro[4.5]-decane | 130 mmoles, 18.62 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | potassium carbonate | 200 mmoles, 27.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-nitrophenyl)ethylbromide | 100 mmoles, 23.01 g | [N+](=O)([O-])C1=CC=C(C=C1)CCBr | C8H8BrNO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(4-nitrophenyl)ethyl-1,4-dioxa-8-azaspiro[4.5]-decane | [N+](=O)([O-])C1=CC=C(C=C1)CCC1OC2(OC1)CCNCC2 | C15H20N2O4
